US08258144B2
N-(4-(4-(2-aminocyclohexylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide
A mixture of N1-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)cyclohexane-1,2-diamine (44 mg, 0.17 mmol), N-(4-aminophenyl)-N-methylacetamide (56 mg, 0.34 mmol) and trimethylsilyl chloride (0.146 mL, 1.15 mmol) in nBuOH (2 mL) was heated at 116° C. for 4 h. It was then purified by HPLC to give the titled compound (6 mg). MS 394.2 (M+H); UV 201.4, 262.7, 306.7 nm.

reactant | N1-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)cyclohexane-1,2-diamine | 0.17 mmol, 44 mg | ClC=1N=C(C2=C(N1)NC=C2)NC2C(CCCC2)N | C12H16ClN5
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.34 mmol, 56 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 1.15 mmol, 0.146 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | N-(4-(4-(2-aminocyclohexylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 6 mg | NC1C(CCCC1)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)NC=C2 | C21H27N7O
